US07435823B2
Step (b) Preparation of 6-(2-(methylamino)pyrimidin-4-yloxy)-1-naphthoic acid
6-(2-Fluoropyrimidin-4-yloxy)-1-naphthoic acid (step a, 1 g, 3.53 mmol) was suspended in THF (10 mL) and warmed to partially dissolve. The mixture was cooled to RT and N-methylamine (2 M in THF, 8.9 mL, 17.7 mmol) was added. After 2 h, the solvent was concentrated in-vacuo. The residue was diluted with H2O and made pH 7 using 1 N HCl. The solid was filtered and rinsed with water and Et2O to yield the title compound as a pink solid.

reactant | 6-(2-Fluoropyrimidin-4-yloxy)-1-naphthoic acid | FC1=NC=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C15H9FN2O3
reactant | N-methylamine | 17.7 mmol, 2 M, 8.9 mL | CN | CH5N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-(2-(methylamino)pyrimidin-4-yloxy)-1-naphthoic acid | CNC1=NC=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C16H13N3O3
